US07659297B2
4-(3-Fluoro-2-methoxy-4-methylphenyl)-4-methyl-2-oxo-pentanoic acid ethyl ester
6.04 g (22.52 mmol) of 4-(3-fluoro-2-methoxy-4-methylphenyl)-4-methyl-2-oxo-pentanoic acid is dissolved in 140 ml of ethanol, mixed with 2.5 ml of sulfuric acid, and refluxed for six hours. The ethanol is drawn off in a rotary evaporator, and the residue is carefully mixed with 300 ml of saturated sodium bicarbonate solution. It is extracted three times with ethyl acetate. The combined organic extracts are washed once with saturated sodium bicarbonate solution and once with brine. After drying, and after the dessicant is filtered off and the solvent is spun in, the residue is chromatographed on silica gel (mobile solvent: ethyl acetate/hexane). 5.58 g (83.7%) of the desired compound is isolated.

reactant | 4-(3-fluoro-2-methoxy-4-methylphenyl)-4-methyl-2-oxo-pentanoic acid | 22.52 mmol, 6.04 g | FC=1C(=C(C=CC1C)C(CC(C(=O)O)=O)(C)C)OC | C14H17FO4
reactant | sulfuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 140 ml | C(C)O | C2H6O
product | 4-(3-Fluoro-2-methoxy-4-methylphenyl)-4-methyl-2-oxo-pentanoic acid ethyl ester | 5.58 g, 83.7% | C(C)OC(C(CC(C)(C)C1=C(C(=C(C=C1)C)F)OC)=O)=O | C16H21FO4
